Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___ with history of HCV cirrhosis c/b HCC s/p OLT ___ who was 
sent in from clinic after she was noted to have new ___ on 
outpatient labs.  
The patient is undergoing outpatient workup for a new 
leukocytosis seen since about ___, with a hematology 
appointment today. Labs were drawn and showed a Cr of 1.9 from 
1.1 on ___. The patient was also seen by dermatology for a 
facial rash attributed to ___, present for several months.  
In the ED, initial vitals were 0 96.5 57 162/89 20 100% RA.  
Labs notable for WBC 22 (75.9%Lymphs). BUN 46, Cr 1.9. ALP 121. 
other studies including hepatic panel, tacro level within normal 
limits.  
She was given 1L NS.  
Patient reports she has been feeling well recently aside from 
one isolated episode of emesis ___ after eating a piece of 
pizza. Her husband and her dog also vomited after eating this 
pizza. This episode was self-limited.  
On the floor, patient reports she feels fine. A little 
dry/dehydrated which she attributes to drinking less water the 
past few days despite increasingly cold weather. Otherwise no 
complaints.  
 
Past Medical History:
peptic ulcer disease, hepatitis C cirrhosis, alcoholic
cirrhosis (sober since ___, infertility, L tenth rib fx,
deviated septum

PSH: splenectomy ___ trauma (horseback riding injury), 2 C/S,
laparoscopy for infertility, s/p multiple fertility treatments,
deviated septum repair, s/p R knee surgery, s/p spiral fx L
tib/fix

 
Social History:
___
Family History:
significant for diabetes, HTN, CHF. Brother recently diagnosed 
with renal cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: 98.2 143/86 p61 R20 98%RA  
General: in NAD, pleasant  
HEENT: EOMI, MMM, PERRL, no icterus or pallor  
Neck: Supple  
CV: ___ systolic ejection murmur, regular rate and rhythm  
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, nontender, nondistended. Well healed surgical 
scar. No flank tenderness  
Ext: No edema  
Neuro: AAOx3. No focal deficits  
Skin: Roseacea to face  

DISCHARGE PHYSICAL EXAMINATION:  
VS: 97.8 108/66 63 18 97%RA  
General: in NAD, pleasant  
HEENT: EOMI, MMM, PERRL, no icterus or pallor  
Neck: Supple  
CV: ___ systolic ejection murmur, regular rate and rhythm  
Lungs: Clear to auscultation bilaterally  
Abdomen: Soft, nontender, nondistended. Well healed surgical 
scar. No flank tenderness  
Ext: No edema  
Neuro: AAOx3. No focal deficits  
Skin: Roseacea 
 
Pertinent Results:
ADMISSION LABS
___ 07:10PM   GLUCOSE-94 UREA N-44* CREAT-1.5* SODIUM-134 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-21* ANION GAP-15
___ 07:10PM   WBC-20.5* RBC-3.59* HGB-11.5* HCT-35.8* 
MCV-100* MCH-32.1* MCHC-32.2 RDW-14.2
___ 07:10PM   NEUTS-17* BANDS-0 LYMPHS-73* MONOS-3 EOS-1 
BASOS-0 ATYPS-6* ___ MYELOS-0
___ 07:10PM   PLT SMR-NORMAL PLT COUNT-212
___ 12:45PM   GLUCOSE-89
___ 12:45PM   UREA N-46* CREAT-1.9* SODIUM-140 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-25 ANION GAP-17
___:45PM   estGFR-Using this
___ 12:45PM   ALT(SGPT)-33 AST(SGOT)-27 LD(___)-151 ALK 
PHOS-121* TOT BILI-0.4
___ 12:45PM   ALT(SGPT)-33 AST(SGOT)-27 LD(LDH)-151 ALK 
PHOS-121* TOT BILI-0.4
___ 12:45PM   TOT PROT-7.5
___ 12:45PM   ALBUMIN-4.2 CALCIUM-9.8 PHOSPHATE-4.0 
MAGNESIUM-2.0
___ 12:45PM   PEP-AWAITING F IgG-1621* IgA-212 IgM-144
___ 12:45PM   tacroFK-5.7
___ 12:45PM   WBC-22.0* RBC-3.86* HGB-12.7 HCT-37.7 MCV-98 
MCH-32.8* MCHC-33.5 RDW-13.2
___ 12:45PM   NEUTS-17.8* LYMPHS-75.9* MONOS-5.0 EOS-0.4 
BASOS-1.0
___ 12:45PM   HOS-SENT
___ 12:45PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:45PM   PLT SMR-NORMAL PLT COUNT-233
___ 12:45PM   CD5-DONE CD16-DONE CD23-DONE CD56-DONE 
CD45-DONE ___ KAPPA-DONE CD2-DONE CD7-DONE 
CD10-DONE CD19-DONE CD20-DONE LAMBDA-DONE CD16/56-DONE
___ 12:45PM   CD3-DONE CD4-DONE CD8-DONE
___ 12:45PM   IPT-DONE

DISCHARGE LABS
___ 05:23AM BLOOD WBC-16.0* RBC-3.32* Hgb-10.4* Hct-32.6* 
MCV-98 MCH-31.4 MCHC-32.0 RDW-13.8 Plt ___
___ 05:23AM BLOOD Glucose-95 UreaN-34* Creat-1.1 Na-139 
K-4.5 Cl-110* HCO3-21* AnGap-13
___ 05:23AM BLOOD Calcium-8.3* Phos-3.6 Mg-1.8
___ 08:17AM BLOOD tacroFK-8.3

STUDIES
___ RENAL US
IMPRESSION: 
NONOBSTRUCTING RIGHT KIDNEY STONES. OTHERWISE UNREMARKABLE. NO 
HYDRONEPHROSIS.
 
___: IMMUNOPHENOTYPING-PB
INTERPRETATION
Immunophenotypic findings show a T cell dominant profile with an 
expanded population of CD8(+)CD57(+) T cells.
Review of peripheral smear shows 63% large granular lymphocytes 
(LGLs); based on absolute lymph count on concurrent CBC of 
16,195 per uL, calculated absolute LGL count is 10,203 per uL.
The differential diagnosis includes a neoplastic versus reactive 
LGL pproliferation, therefore the sample will be sent for 
molecular analysis for further characterization and the results 
reported separately.
 
Brief Hospital Course:
___ with history of HCV cirrhosis c/b ___ s/p OLT ___ who was 
sent in from clinic after she was noted to have new ___ on 
outpatient labs. Patient was transfused 2 L of NS and her 
creatinine trended down from 1.9 --> 1.1 in 24 hrs. She was 
instructed to take daily weight and call her doctor if her 
weights changed by more than 3lbs in either direction. 
Leukocytosis is stable and she will follow up with hematology as 
outpatient. Pt will follow up in transplant clinic, PCP, 
___ and Cardiology. 

ACUTE ISSUES

# Acute Kidney injury - DDx includes prerenal from dehydration, 
and appears responsive to IVF. No evidence of obstruction. 
Continued IVF overnight and considered evaluation for other 
causes (vasculitis, glomerulonephritis, etc.) in the AM if not 
improved. Cr improved to 1.1 at time of discharge. Restarted 
Lasix at discharge and held lisinopril. Instructed patient to 
weigh herself every day and call her doctor if she loses or 
gains over 3 lbs. 

# Post liver transplant: continue tacrolimus with a goal trough 
of ___ for now. Patient will follow up in Transplant Clinic 
after discharge from the hospital. 

CHRONIC ISSUES

# Leukocytosis: predominantly lymphocytes. The concern for PTLD 
with CLL phenotype was raised. EBV and CMV viral load negative, 
and CT-chest, abdomen, pelvis without lymphadenopathy or 
lesions. Will await the opinion of patient's outpatient 
hematologist.  

# Hepatitis C: Last viral load negative. Outpatient followup. 
 
# Aortic stenosis: ___ 0.9. Stable and asymptomatic. Follow with 
annual ECHO  
- continue metoprolol 25mg BID  

# Rosacea - Written for topical treatment by dermatology. Have 
not yet written her home topical meds, pending final derm note 
from visit.  

# HTN: Held lisinopril and lasix given ___. Restarted Lasix at 
discharge. 
  
# ANXIETY/DEPRESSION: Cont home ativan and citalopram  

# GERD: home famotidine PRN  

# INSOMNIA: continue home ambien with caution. Reduced her dose 
from 10mg to 5mg  

TRANSITIONAL ISSUES
-pt will have creatinine drawn on ___ (ordered by 
hematologist)
-pt instructed to do daily weights and notify phyisician if 
weight changes in either direction by >3lbs
-pt will continue on Lasix since she has severe aortic stenosis 
and is at high risk of fluid overload; pt will need follow up 
with cardiologist regarding her severe AS
-we stopped the patients Lisinopril. She should hold the 
lisinopril until she sees her transplant attending and pending 
her creatinine level on ___
-pt has blood pressure cuff at home; instructed to take her 
blood pressure daily; If systolic blood pressure ___ number) is 
greater than 160 she was instructed to call the transplant 
clinic to send a message to Dr. ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN skin 
3. Lorazepam 0.5 mg PO TID:PRN anxiety 
4. Metoprolol Tartrate 25 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Senna 8.6 mg PO BID 
7. Famotidine 20 mg PO PRN heartburn 
8. Tacrolimus 2 mg PO Q12H 
9. sulfacetamide sodium-sulfur ___ % (w/w) topical BID 
10. Furosemide 20 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 
12. Citalopram 20 mg PO DAILY 
13. minoxidil 2 % topical ASDIR 
14. FoLIC Acid 1 mg PO DAILY 
15. Zolpidem Tartrate 10 mg PO QHS 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Lorazepam 0.5 mg PO TID:PRN anxiety 
5. Metoprolol Tartrate 25 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Senna 8.6 mg PO BID 
8. Tacrolimus 2 mg PO Q12H 
9. Zolpidem Tartrate 10 mg PO QHS 
10. Famotidine 20 mg PO PRN heartburn 
11. Furosemide 20 mg PO DAILY 
12. minoxidil 2 % topical ASDIR 
13. sulfacetamide sodium-sulfur ___ % (w/w) topical BID 
14. Triamcinolone Acetonide 0.1% Ointment 1 Appl TP BID:PRN skin 


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Dehydration/Acute Kidney Injury
SECONDARY: s/p HCV cirrhosis c/b HCC s/p OLT ___ aortic 
stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ was a pleasure to take part in your care during your stay at 
___. You came into the hospital after your clinic blood tests 
showed a rise in creatinine (measure of your kidney function). 
When you arrived you were found to be dehydrated and given 2 
liters of fluid through the IV. You kidney funtion (creatinine) 
returned to a normal level. You were discharged home. You will 
need to have this blood test rechecked on ___. You 
will follow up with your primary care physician, ___, 
the ___ and with your cardiologist. 

You are on a medication called Lasix for your heart. This 
medication prevents you from becoming fluid overloaded, which 
can cause you to become short of breath and have leg swelling. 
You should weigh yourself every day. If you notice a change in 
weight greater than 3 lbs (decrease or increase) you should call 
your doctor. Your Lisinopril (blood pressure medication) was 
held during your hospital stay. You will not take this 
medication after leaving the hospital. You should take your 
blood pressure daily. If the systolic pressure ___ 
number/bigger number) is greater than 160, please call the 
transplant clinic and leave a message for Dr. ___. His team 
will contact you about continuing the medication. 

Thank you for allowing us to participate in your care during 
your stay in the hospital. 

Sincerely, 

Your ___ Team
 
Followup Instructions:
___